US09255093B2
2-Cyano-3-methylbenzofuran-6-carboxylate (540 mg, 2.51 mmol) was dissolved in 17 mL of EtOH, and CaCl2 (557 mg, 5.02 mmol) was added and the mixture was briefly stirred in the ultrasound bath. Then the mixture was cooled to 0° C. and a solution of NaBH4 (380 mg, 10.04 mmol) in 17 mL of THF was added. The mixture was stirred at 0° C. for 1.5 hr, and then 1N HCl was carefully added. The organic layer was separated, and the aqueous phase was extracted with DCM (4×7 mL), the combined organic phases were dried over Na2SO4, filtered off and evaporated under reduced pressure. The crude product was purified by silica gel flash chromatography 100% DCM-7% MeOH/93% DCM to give 6-(hydroxymethyl)-3-methylbenzofuran-2-carbonitrile (233 mg). 1H NMR (400 MHz, DMSO-d6) δ 2.44 (s, 3H), 4.65 (d, J=5.8 Hz, 2H), 5.42 (t, J=5.8 Hz, 1H), 7.35-7.42 (m, 1H), 7.60 (s, 1H), 7.77 (d, J=8.2 Hz, 1H).

reactant | 2-Cyano-3-methylbenzofuran-6-carboxylate | 2.51 mmol, 540 mg | C(#N)C=1OC2=C(C1C)C=CC(=C2)C(=O)[O-]
reactant | CaCl2 | 5.02 mmol, 557 mg | [Cl-].[Cl-].[Ca+2]
reactant | NaBH4 | 10.04 mmol, 380 mg | [BH4-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | EtOH | 17 mL | CCO | C2H6O
solvent | THF | 17 mL | C1CCOC1 | C4H8O
product | 6-(hydroxymethyl)-3-methylbenzofuran-2-carbonitrile | 233 mg | OCC1=CC2=C(C(=C(O2)C#N)C)C=C1 | C11H9NO2
